US09260440B2
To a solution of 2,2-dimethyl-2,3,5,10-tetrahydro-[1,2]diazepino[3,4,5,6-def]carbazol-6(1H)-one (100 mg, 0.39 mmol) in dry DMF (8 mL) was added 2-(2-bromoethoxy)tetrahydro-2H-pyran (194 mg, 1.17 mmol). K2CO3 (215 mg, 1.6 mmol) was added and the mixture was heated at 70° C. for 11.5 hours. Then water (100 mL) was added to the mixture, which was then extracted with EA (50 mL×3). The organic layers were combined, washed with brine, dried over Na2SO4, and concentrated to provide crude yellow oil. Then MeOH (15 mL) was added to the residue, followed by the addition of p-TSA.H2O (100 mg, 0.52 mmol), and the mixture was stirred at room temperature for 1 hour. Water (100 mL) was added to the mixture, extracted with EA (50 mL×3). The organic layers were combined, washed with saturated aqueous NaHCO3 and brine, dried over Na2SO4, and concentrated The residue was purified by chromatography column on silica gel (elution with hexane/ethyl acetate) to give 80 mg (69% yield) of 10-(2-hydroxyethyl)-2,2-dimethyl-2,3,5,10-tetrahydro-[1,2]diazepino[3,4,5,6-def]carbazol-6(1H)-one as yellow solid. 1H NMR (DMSO-d6) δ 9.89 (s, 1H), 7.58 (d, 1H, J=8.4 Hz), 7.47 (d, 1H, J=7.2 Hz), 7.15 (dd, 1H, J=7.2, 8.4 Hz), 4.88 (t, 1H, J=5.4 Hz), 4.21 (t, 2H, J=5.4 Hz), 3.65-3.68 (m, 1H), 2.76 (s, 2H), 2.25 (s, 2H), and 1.07 (s, 6H). MS (ESI) m/e [M+1]+ 298.1.

reactant | 2,2-dimethyl-2,3,5,10-tetrahydro-[1,2]diazepino[3,4,5,6-def]carbazol-6(1H)-one | 0.39 mmol, 100 mg | CC1(CC=2NC=3C=CC=C4C3C2C(C1)=NNC4=O)C | C15H15N3O
reactant | 2-(2-bromoethoxy)tetrahydro-2H-pyran | 1.17 mmol, 194 mg | BrCCOC1OCCCC1 | C7H13BrO2
reactant | K2CO3 | 1.6 mmol, 215 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | p-TSA | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | Water | 100 mL | O | H2O
solvent | MeOH | 15 mL | CO | CH4O
solvent | water | 100 mL | O | H2O
solvent | H2O | 0.52 mmol, 100 mg | O | H2O
product | 10-(2-hydroxyethyl)-2,2-dimethyl-2,3,5,10-tetrahydro-[1,2]diazepino[3,4,5,6-def]carbazol-6(1H)-one | 80 mg, 69% yield | OCCN1C=2C=CC=C3C2C=2C(CC(CC12)(C)C)=NNC3=O | C17H19N3O2
